US07291631B2
A stirred solution of 3-bromo-pyridine-2-carbaldehyde (128 mg, 0.69 mmol) and 2-methoxybenzeneboronic acid (111 mg, 0.73 mmol) in a mixture of THF (0.75 mL), DME (2.0 mL) and 2M Na2CO3 (0.75 mL) was degassed with Ar for 15 minutes, after which Pd(PPh3)4 (41 mg, 0.034 mmol) was added and the heterogeneous mixture heated to 90° C. overnight. The reaction was quenched with brine (15 mL) and diluted with EtOAc (40 mL). The organic layer was separated, washed with brine (4×15 mL), dried (Na2SO4), filtered and concentrated in vacuo. Purification by flash chromatography on silica gel (EtOAc/Hexanes, 80:20, then 70:30) gave 3-(2-methoxy-phenyl)-pyridine-2-carbaldehyde (93 mg, 63%) as a yellow solid. 1H NMR (CDCl3) δ 3.74 (s, 3H), 6.99 (d, 1H, J=8.3 Hz), 7.10 (t, 1H, J=7.5 Hz), 7.25 (dd, 1H, J=7.4, 1.7 Hz), 7.40-7.49 (m, 1H), 7.55 (dd, 1H, J=7.9, 4.8 Hz), 7.74 (dd, 1H, J=7.9, 1.8 Hz), 8.80 (dd, 1H, J=4.6, 1.5 Hz), 9.95 (s, 1H).

reactant | 3-bromo-pyridine-2-carbaldehyde | 0.69 mmol, 128 mg | BrC=1C(=NC=CC1)C=O | C6H4BrNO
reactant | 2-methoxybenzeneboronic acid | 0.73 mmol, 111 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | DME | 2.0 mL | COCCOC | C4H10O2
reactant | Na2CO3 | 2M, 0.75 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 0.75 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.034 mmol, 41 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-methoxy-phenyl)-pyridine-2-carbaldehyde | 93 mg, 63% | COC1=C(C=CC=C1)C=1C(=NC=CC1)C=O | C13H11NO2
